US04252803
(i) 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-carbothioamide
Hydrogen sulphide gas was passed through a stirred solution of 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-carbonitrile (4 g) and triethylamine (3 ml) in dry dimethylformamide (100 ml) for 6 hours. and the reaction mixture was stirred for a further 7 days. Hydrogen sulphide gas was passed through the reaction mixture for 0.5 hours on each day. Water (200 ml) was added and the mixture was extracted with ethyl acetate (3×200 ml). Evaporation of the washed (H2O) and dried (MgSO4) extracts gave a yellow residue which gave a yellow powder (4.1 g) on trituration with ether. A sample was crystallised from ethanol to give the title compound as yellow microcrystals m.p. 195°-8° C. (dec.)

reactant | Hydrogen sulphide | S | H2S
reactant | 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-carbonitrile | 4 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)C#N | C19H13N3O2
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | Water | 200 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-carbothioamide | 4.1 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)C(N)=S | C19H15N3O2S
